US07476666B2
Step 1: Ethyl 3-benzyloxy-7-chlorocarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a suspension of 3-benzyloxy-2-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid (250 mg, 0.670 mmol) in anhydrous CH2Cl2 at 0° C. were added 2M oxalyl chloride in CH2Cl2 (1.339 mL, 2.678 mmol) and DMF (1 drop). The reaction was stirred at 0° C. for 30 minutes and allowed to warm to room temperature for 1 hour. The mixture was concentrated in vacuo and azeotroped twice with anhydrous CH2Cl2 to afford the title product. ES MS (M+H)=392.

reactant | 3-benzyloxy-2-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid | 0.670 mmol, 250 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)O)C)=O)C(=O)OCC | C18H19N3O6
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2.678 mmol, 1.339 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-benzyloxy-7-chlorocarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)Cl)C)=O)C(=O)OCC | C18H18ClN3O5
